US09260440B2
To a suspension of tetrakis(triphenylphosphine)palladium(0)(1.72 g, 1.5 mmol) and CuI (0.29 g, 1.5 mmol) in 54 mL of toluene were added methyl 3-amino-2-bromobenzoate (2.3 g, 10 mmol), (R)-benzyl 2-ethynyl-2-methylpyrrolidine-1-carboxylate (3.0 g, 12 mmol), and TEA (7 mL, 50 mmol). The mixture was stirred for 18 h at 100° C. under nitrogen atmosphere. After cooling, water (20 mL) was added. The mixture was extracted with EtOAc (3×20 mL) and the combined organic layers were washed with brine (20 mL) and dried over MgSO4. The mixture was filtered, and the filtrate was evaporated to dryness. The residue was purified by column chromatography on silica gel using CH2Cl2 as eluent to provide 2.31 g of (R)-benzyl 2-((2-amino-6-(methoxycarbonyl)phenyl)ethynyl)-2-methylpyrrolidine-1-carboxylate.

reactant | methyl 3-amino-2-bromobenzoate | 10 mmol, 2.3 g | NC=1C(=C(C(=O)OC)C=CC1)Br | C8H8BrNO2
reactant | (R)-benzyl 2-ethynyl-2-methylpyrrolidine-1-carboxylate | 12 mmol, 3.0 g | C(#C)[C@@]1(N(CCC1)C(=O)OCC1=CC=CC=C1)C | C15H17NO2
reactant | water | 20 mL | O | H2O
solvent | toluene | 54 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.5 mmol, 1.72 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 1.5 mmol, 0.29 g | [Cu]I
product | (R)-benzyl 2-((2-amino-6-(methoxycarbonyl)phenyl)ethynyl)-2-methylpyrrolidine-1-carboxylate | 2.31 g | NC1=C(C(=CC=C1)C(=O)OC)C#C[C@@]1(N(CCC1)C(=O)OCC1=CC=CC=C1)C | C23H24N2O4
